Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
suicidal ideation, influenza-like-illness, detox
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ with PMH significant for IVDU (last used 
heroin the day of presentation), EtOH abuse (last drink the 
night before admission), homelessness (living in shelter) and 
recent incarceration within the last 12 months who presents to 
the ED reporting SI and ILI.

Patient was in his usual state of health until 48 hours prior to 
admission when he developed cough and myalgias. Patient states 
that he may have picked something up from someone in the 
shelter. Upon presentation to the ED, he reports depressed mood 
but denied SI to the staff but did report thoughts of ending his 
life (without plan) to the Psychiatry resident. Upon further 
questioning, patient reports that he was released from jail on 
___ after a ___ year sentence for restraining order violation 
(against father). Reports that he was teased by the guards in 
jail. Since he was released, he has been living in various 
homeless shelters in ___. Per Psych note in ED, patient 
became very upset when asked about his time in jail stating he 
is "very troubled by his time [in jail]" and stated that "his 
memory is erased". He reports h/o abuse as a child associated 
with flashbacks, hypervigilence and nightmares. He has no 
support system. He has been drinking 1 pint of liquor daily in 
last 4 days and used 5gm of IV heroin the morning of 
presentation. He was requesting detox in the ED.

In the ED, initial vital signs were: 103.4, 108, 135/86, 20, 98% 
RA 
- Labs were notable for: WBC 7.2, H/H 11.4/33.6, UTox negative, 
STox negative including for EtOH. UA unremarkable. Flu swab was 
ordered but patient refused.
- CXR showed no acute intrathoracic process
- The patient was given: 1L IVF, PO Tylenol 1gm x1
- Consults: Psychiatry
- Pt was admitted to medicine for: medical clearance, 
endocarditis rule out and monitoring for EtOH withdrawal.

Vitals prior to transfer were: 98.4, 72, 110/70, 16, 98% RA 

Upon arrival to the floor, patient has no acute complaints. 
Refusing to discuss anything psychiatric in nature as well as 
recent jail term. Discussed patient's IVDU: reports that he used 
a kit from a clean needle exchange center today with new 
equipment, sterile water and fresh cotton for filtering. He does 
not lick his needles. Denies redness or swelling around 
injection site (L antecubital fossa).   
 
Past Medical History:
CHRONIC BILATERAL FOOT PAIN
SELF REPORTED PTSD
H/O SUICIDE ATTEMPT -- cut wrists
H/O INPATIENT PSYCHIATRIC ADMISSIONS (2)
Hepatitis C
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: 98.2, 109/70, 77, 18, 98% RA  
GENERAL: Pleasant, well-appearing, in no apparent distress. 
HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, pupils pinpoint, PERRLA, EOMI, OP clear.  
NECK: Supple, no LAD, no thyromegaly, JVP flat.
CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
PULMONARY: Clear to auscultation bilaterally, without wheezes or 
rhonchi. 
ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.
SKIN: Without rash. Puncture wounds in L antecubital fossa 
without tracks, erythema, fluctuance or tenderness. No evidence 
of skin popping.
NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. Gait not assessed.

DISCHARGE PHYSICAL EXAM:

Vitals: Tm 98.2 Tc 97.5 133/88 (126-133/74-88) 88 (88-102) 18 
100%RA
GENERAL: Pleasant, well-appearing, in no apparent distress, 
dancing in chair to music. 
HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, pupils pinpoint, PERRLA, EOMI, OP clear. Two 
patches of 0.5mm white papules on distal L tongue
NECK: Supple, no LAD, no thyromegaly, JVP flat.
CARDIAC: RRR, normal S1/S2, ___ systolic murmur loudest at 
axilla and audible over LLSB
PULMONARY: Clear to auscultation bilaterally, without wheezes or 
rhonchi. 
ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.
SKIN: Without rash. Puncture wounds in L antecubital fossa 
without tracks, erythema, fluctuance or tenderness. No evidence 
of skin popping.
NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. Gait normal
 
Pertinent Results:
ADMISSION LABS:
==============

___ 05:30PM BLOOD WBC-7.2 RBC-3.80* Hgb-11.4* Hct-33.6* 
MCV-88 MCH-30.0 MCHC-33.9 RDW-13.8 RDWSD-44.8 Plt ___
___ 05:30PM BLOOD Neuts-61.6 ___ Monos-11.1 Eos-1.5 
Baso-0.4 NRBC-0.3* Im ___ AbsNeut-4.45 AbsLymp-1.78 
AbsMono-0.80 AbsEos-0.11 AbsBaso-0.03
___ 05:30PM BLOOD Glucose-117* UreaN-10 Creat-0.7 Na-141 
K-3.7 Cl-106 HCO3-25 AnGap-14
___ 05:35AM BLOOD Calcium-8.5 Phos-3.4 Mg-1.7
___ 05:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:35PM BLOOD Lactate-1.3
___ 05:30PM URINE Color-Straw Appear-Clear Sp ___
___ 05:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 05:30PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

OTHER PERTINENT/DISCHARGE LABS:
============================

___ 06:10AM BLOOD WBC-13.7* RBC-3.67* Hgb-10.8* Hct-33.5* 
MCV-91 MCH-29.4 MCHC-32.2 RDW-14.4 RDWSD-48.1* Plt ___
___ 06:10AM BLOOD Neuts-50 Bands-3 ___ Monos-4* Eos-1 
Baso-0 Atyps-2* Metas-5* Myelos-6* Promyel-1* NRBC-1* 
AbsNeut-7.26* AbsLymp-4.11* AbsMono-0.55 AbsEos-0.14 
AbsBaso-0.00*
___ 06:10AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-1+ Ovalocy-1+
___ 06:10AM BLOOD Calcium-9.1 Phos-4.8* Mg-2.0 UricAcd-3.2* 
Iron-73
___ 06:10AM BLOOD calTIBC-348 Ferritn-80 TRF-268
___ 10:10AM BLOOD HIV Ab-Negative
___ 11:30AM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 05:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING/STUDIES:
==============

___ - CXR PA/LAT
No acute intrathoracic process.

MICROBIOLOGY:
==============
___- urine culture - final, no growth
___ - blood cultures x2 - pending
___ - HCV viral load -   HCV VIRAL LOAD (Final ___: 
      12,100 IU/mL. 
      Performed using Cobas Ampliprep / Cobas Taqman HCV v2.0 
Test. 
      Linear range of quantification: 1.50E+01 IU/mL - 1.00E+08 
IU/mL. 
      Limit of detection: 1.50E+01 IU/mL. 

 
Brief Hospital Course:
___ with PMH significant for IVDU (last used heroin the day of 
presentation), EtOH abuse (last drink the night before 
admission), homelessness (living in shelter) and recent 
incarceration within the last 12 months who presents to the ED 
reporting SI and ILI. Of note, patient left prior to being 
evaluated by hematology/oncology attending staff, and prior to 
receiving counseling or discharge information/paperwork. 

#FEVER/ILI: Likely due to heroin contaminant, as pt injected day 
of presentation or influenza-like viral illness. Unlikely 
endocarditis, however pt is active drug user. No evidence of PNA 
on CXR, though pt is at risk for aspiration PNA with sedation 
from substance use. Bedside ultrasound in ED without obvious 
vegetation. No leukocytosis. Negative Flu A/B swab. No fevers 
since admission. Negative PPD, checked due to recent 
incarceration/fever.

#SI/PSYCHIATRIC/BEHAVIORAL: patient cooperative and 
participatory at this time in terms of medical history/problems. 
Refusing to discuss psychiatric diagnoses, recent jail time. 
Denies SI/HI to medical team and to psychiatry. Psychiatry 
evaluated patient and recommended outpatient follow-up with his 
previously established providers. Patient left AMA prior to 
being given follow-up information

#POLYSUBSTANCE ABUSE: patient abusing both EtOH and IV heroin 
since release from jail 4 days prior to presentation. Utox and 
Stox in ED negative. No evidence of seizure, hallucinations, DTs 
on exam. Patient left AMA prior to receiving counseling 
information 

#HCV - per pt report, HCV antibody positive, viral load 12,100 
IU/mL. Negative HIV ab. Patient aware of HCV positive status 
prior to admission, left AMA prior to being given counseling 
regarding further management.

#Tongue papules, painful -likely viral illness

#TOBACCO ABUSE: nicotine gum PRN

TRANSITIONAL ISSUES:
-Patient left AMA (eloped) prior to receiving any counseling or 
follow-up information.
-Recommend ongoing substance abuse counseling and psychiatric 
evaluation/treatment
-Recommend outpatient evaluation of heart murmur; no clinical 
evidence of endocarditis by ___'s criteria. incomplete TTE 
unremarkable
-Recommend monitoring of hepatitis C as outpatient, viral load 
12,100 IU/mL on ___
-Recheck CBC/diff on ___, pt asymptomatic with leukocytosis 
and slight bandemia/L shift
--___ and ___
 ___
--___ (outpatient psychiatry)
 ___ Emergency Services Team (BEST)
 ___
 ___
-Full code
-Emergency contact: sister ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
patient left AMA prior to discharge prescriptions being given to 
him.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
heroine abuse
influenza-like illness
suicidal ideation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at the ___ 
___. You were recently admitted with a fever and for 
saying that you wished to hurt yourself. You were evaluated with 
laboratory testing including a negative flu swab, and you 
improved without antibiotics. Your symptoms were likely a viral 
illness or caused by the heroine you used. You are being 
discharged home to continue working with psychiatrists as an 
outpatient. You were found to have a heart murmur and should 
follow up as an outpatient with your primary care doctor for 
continued evaluation. You were also found to have atypical blood 
cells and were recommended to undergo further evaluation, but 
you left against medical advice before you could receive any 
counseling or discharge paperwork regarding your follow-up 
appointments.

There are resources for you to continue your care including the 
___, ___ outpatient psychiatry, 
and rehabilitation programs:

--___ Shelter and Day Care
  ___

--___ (outpatient psychiatry)
  ___

--___ Emergency Services Team (BEST)
  ___
  ___

We wish you the best,
Your ___ Care Team

 
Followup Instructions:
___